US06833421B1
4.16 g (20.0 mmol) ferulic acid methyl ester was dissolved in 115 ml 2-butanone. 2.09 ml (22.0 mmol) n-butyl bromide and 11.06 g (80 mmol) potassium carbonate were added. The reaction suspension was then heated at reflux temperature for 20 hours. The reaction mixture was filtered. The filtrate was concentrated by evaporation. The crude product was recrystallised from 42 ml isopropyl alcohol yielded 4.85 g (92%) (4-butoxy-3-methoxycinnamic acid methyl ester as white crystals.

reactant | ferulic acid methyl ester | 20.0 mmol, 4.16 g | COC(\C=C\C1=CC(OC)=C(O)C=C1)=O | C11H12O4
reactant | n-butyl bromide | 22.0 mmol, 2.09 ml | C(CCC)Br | C4H9Br
reactant | potassium carbonate | 80 mmol, 11.06 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | 115 ml | CC(CC)=O | C4H8O
product | 4-butoxy-3-methoxycinnamic acid methyl ester | COC(C=CC1=CC(=C(C=C1)OCCCC)OC)=O | C15H20O4
